US08536183B2
(2S)-2-Methyl-4-[(2-methyl-3-pyridinyl)carbonyl]-1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine formic acid salt
To a solution of (2S)-2-methyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine hydrochloride (Description 8) (100 mg, 0.270 mmol) in THF (5 ml) was added HOBT.H2O (41.3 mg, 0.270 mmol), HBTU (102 mg, 0.270 mmol) and 2-methyl-3-pyridinecarboxylic acid (40.7 mg, 0.297 mmol). The mixture was stirred for 5 min before addition of DIPEA (0.118 ml, 0.674 mmol) and the resultant solution stirred at room temperature for 16 h. The mixture was then concentrated and the residue partitioned between DCM (10 ml) and water (10 ml), the layers were separated using a hydrophobic frit and the organic layers concentrated to dryness and the crude dissolved in DMSO and purified by MDAP giving the title compound (61.2 mg) as a white solid.

reactant | (2S)-2-methyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine hydrochloride | 0.270 mmol, 100 mg | Cl.C[C@@H]1N(CCNC1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.270 mmol, 41.3 mg | O | H2O
reactant | HBTU | 0.270 mmol, 102 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-methyl-3-pyridinecarboxylic acid | 0.297 mmol, 40.7 mg | CC1=NC=CC=C1C(=O)O | C7H7NO2
reactant | DIPEA | 0.674 mmol, 0.118 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (2S)-2-Methyl-4-[(2-methyl-3-pyridinyl)carbonyl]-1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine formic acid salt | 61.2 mg | C(=O)O.C[C@@H]1N(CCN(C1)C(=O)C=1C(=NC=CC1)C)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C19H20F3N3O3S.CH2O2/c1-13-12-24(18(26)17-4-3-9-23-14(17)2)10-11-25(13)29(27,28)16-7-5-15(6-8-16)19(20,21)22;2-1-3/h3-9,13H,10-12H2,1-2H3;1H,(H,2,3)/t13-;/m0./s1
